US08097628B2
(e) 4-(2,2-Dimethyl-1,3-dioxan-5-yl)-6-(methyloxy)-1,4-dihydropyrido[2,3-b]pyrazin-3(2 H)-one
Ethyl N-[2-[(2,2-dimethyl-1,3-dioxan-5-yl)amino]-6-(methyloxy)-3-pyridinyl]glycinate (35.42 g, 104.4 mmol) was dissolved in dry THF (500 ml) and the solution was added dropwise over 2 h to a cooled (0° C.) suspension of sodium hydride (4.173 g of 60% w:w dispersion in oil) in dry THF (500 ml) under argon. During the addition the colour of the suspension changed from orange to green. The mixture was stirred at 0° C. for a further 15 minutes, then allowed to warm to room temperature and stirred at rt for 1 h. The mixture was cooled to 0° C. and saturated NH4Cl (15 ml) was added cautiously with vigorous stirring (effervescence observed). After effervescence had ceased, the mixture was allowed to warm to room temperature and stirred for 4 h then diluted with EtOAc (500 ml) and filtered with suction. The solids were washed with EtOAc (300 ml) and the combined filtrate plus washings were evaporated under reduced pressure to give a dark brown solid. This was stirred with petroleum ether (40-60°) (500 ml) plus EtOAc (20 ml) and filtered with suction to give a lighter brown solid which was washed with petroleum ether (40-60°) (100 ml) and air-dried to afford the title compound (25.37 g, 82%).

reactant | Ethyl N-[2-[(2,2-dimethyl-1,3-dioxan-5-yl)amino]-6-(methyloxy)-3-pyridinyl]glycinate | 104.4 mmol, 35.42 g | CC1(OCC(CO1)NC1=NC(=CC=C1NCC(=O)OCC)OC)C | C16H25N3O5
reactant | sodium hydride | 4.173 g | [H-].[Na+]
reactant | NH4Cl | 15 ml | [NH4+].[Cl-]
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 500 ml | CCOC(=O)C | C4H8O2
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
product | 4-(2,2-Dimethyl-1,3-dioxan-5-yl)-6-(methyloxy)-1,4-dihydropyrido[2,3-b]pyrazin-3(2 H)-one | 25.37 g, 82% | CC1(OCC(CO1)N1C2=C(NCC1=O)C=CC(=N2)OC)C | C14H19N3O4
